US09284306B2
To a turbid solution of (R)-tert-butyl 5-(hydroxymethyl)-2-oxooxazolidin-3-ylcarbamate (840 mg, 3.62 mmol) in DCM (10 mL), triethylamine (458 mg, 4.52 mmol) and methanesulfonyl chloride (518 mg, 4.52 mmol) were added and the reaction was stirred, at r.t., under nitrogen, for 2 h 30 min. The solution was washed with: cold water (resulting pH=7-8), cold citric acid (resulting pH=4-5) and cold brine. The organic layer was dried over Na2SO4 and evaporated and the residue (beige foam) was triturated with diisopropyl ether, affording (S)-(3-(tert-butoxycarbonylamino)-2-oxooxazolidin-5-yl)methyl methanesulfonate (1.055 g, 3.40 mmol) as a white solid, that was dissolved in 7 mL of DMF. Sodium methanethiolate (317 mg, 4.52 mmol) was added to the solution and the mixture was stirred at 60° C. for 3 h. AcOEt was added and the solution was washed with cold water, cold citric acid (until pH=6) and cold brine. The organic layer was dried over Na2SO4 and evaporated to leave a yellow oil. The title compound was precipitated by crystallization from diisopropyl ether as a white solid, recovered by filtration on Buchner (429 mg, 1.635 mmol). Yield=45%.

reactant | (R)-tert-butyl 5-(hydroxymethyl)-2-oxooxazolidin-3-ylcarbamate | 3.62 mmol, 840 mg | OC[C@H]1CN(C(O1)=O)NC(OC(C)(C)C)=O | C9H16N2O5
reactant | triethylamine | 4.52 mmol, 458 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.52 mmol, 518 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-(3-(tert-butoxycarbonylamino)-2-oxooxazolidin-5-yl)methyl methanesulfonate | 3.40 mmol, 1.055 g, Yield=45% | CS(=O)(=O)OC[C@@H]1CN(C(O1)=O)NC(=O)OC(C)(C)C | C10H18N2O7S
